US04009210
A 500 ml reaction flask fitted with a mechanical stirrer, heating mantle, thermometer and water-cooled condenser was charged with 200 ml of glacial acetic acid, and 61.7 g (0.8 mole) of ammonium acetate. To the stirred mixture there were slowly added 97 g of 37% formalin (1.2 moles of formaldehyde) and 20.6 g (0.1 mole) of 2,6-ditert.-butylphenol. The reaction flask was equipped with a take-off head to remove the methanol which is present in commercially available formalin. The mixture was refluxed (107°-9°) for 6 hours. After cooling to ambient temperature, the mixture was poured on a vacuum filter and the product cake was washed with water. After drying, there was obtained 15.8 g of crystalline 3,5-ditert.butyl-4-hydroxybenzaldehyde, m.p. 184°-86° (67.5%).

reactant | water | O | H2O
reactant | ammonium acetate | 0.8 mole, 61.7 g | C(C)(=O)[O-].[NH4+]
reactant | formalin | 1.2 moles, 97 g | C=O | CH2O
reactant | 2,6-ditert.-butylphenol | 0.1 mole, 20.6 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3,5-ditert.butyl-4-hydroxybenzaldehyde | 15.8 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O)C(C)(C)C | C15H22O2
